US08293916B2
Step 1: 1-(1-Ethoxy-vinyl)-4-fluoro-benzene
A solution of 10.0 g 4-Fluoro-iodobenzene, 21.1 g 1-Ethoxyvinyltributyltin and 2.6 g Tetrakis(triphenylphosphine)Palladium in 130 ml of Toluene was refluxed overnight under an argon atmosphere. The dark brown solution was filtered over filter aid and concentrated in vaccuo. The crude dark brown oil (7.49 g) was directly used in the next step.

reactant | 4-Fluoro-iodobenzene | 10.0 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 1-Ethoxyvinyltributyltin | 21.1 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | Toluene | 130 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)Palladium | 2.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(1-Ethoxy-vinyl)-4-fluoro-benzene | C(C)OC(=C)C1=CC=C(C=C1)F | C10H11FO
